US07834030B2
To a solution of 1.0 g 4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carbaldehyde and 868 mg 3-bromo-3,3-difluorpropene in 10 ml dimethylformamide 425 mg Indium were added and the resulting suspension was stirred in an ultrasonic bath for two hours. Then 20 ml 1 N hydrochloric acid were added and the mixture stirred at room temperature for thirty minutes. The mixture was extracted three times with portions of 50 ml ethyl acetate. The combined organic layers were dried over MgSO4. The solvent was evaporated in vacuo. The resulting residue was purified by reversed phase HPLC to obtain 740 mg 2,2-Difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-but-3-en-1-ol as a colorless lyophilisate.

reactant | 4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carbaldehyde | 1.0 g | CC=1N=C(SC1C=O)C1=CC=C(C=C1)C(F)(F)F | C12H8F3NOS
reactant | 3-bromo-3,3-difluorpropene | 868 mg | BrC(C=C)(F)F | C3H3BrF2
reactant | hydrochloric acid | 1 N, 20 ml | Cl | ClH
solvent | dimethylformamide | 10 ml, 425 mg | CN(C=O)C | C3H7NO
product | 2,2-Difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-but-3-en-1-ol | 740 mg | FC(C(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)(C=C)F | C15H12F5NOS
